US06660742B2
Pd/C 10% (45 mg) was added to 2-(4-benzyloxy-2-nitrophenyl)ethyl chloride (132 mg, 0.453 mmol). The mixture was then suspended in freezer chilled THF (30 mL). The suspension was degassed and purged 3 times with hydrogen and reduced under atmospheric pressure at room temperature. After 3 h the solution was checked by TLC (10% MeOH/CHCl3) and the solution was filtered by suction over Celite. The filter residue was washed with more CH2Cl2, and the filtrate was concentrated under reduced pressure to give 2-(2-amino-4-hydroxyphenyl)ethyl chloride as a white solid (60.7 mg, 0.354 mmol, 78%). Mp 96-100° C.; TLC (10% MeOH/CHCl3) Rf=0.34; 1H-NMR (CDCl3 in 1 drop DMSO-d6, 500 MHz) 8.20 (br s, 1H), 6.85 (d, 8.0, 1H), 6.27 (dd, 2.5, 8.0, 1H), 6.26 (d, 2.5, 1H), 4.00 (br s, 2H), 3.66 (t, 8.5, 2H), 2.90 (t, 8.5, 2H); IR (neat) 3139, 3020, 2954, 1622, 1594, 1513, 1464, 1560, 1306, 1265, 1246, 1197, 1175, 1079, 1049, 973, 848, 793, 722, 596, 646; EI-MS m/z (relative intensity) 171 (M+, 28); isotope pattern of M+ and M++2 agrees with the presence of one chlorine atom. Accurate mass (EI-MS) for C8H10ClNO: calcd. 171.0451, obsd. 171.0444.

reactant | 2-(4-benzyloxy-2-nitrophenyl)ethyl chloride | 0.453 mmol, 132 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CCCl)[N+](=O)[O-] | C15H14ClNO3
catalyst | Pd/C | 45 mg | [Pd] | Pd
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(2-amino-4-hydroxyphenyl)ethyl chloride | 0.354 mmol, 60.7 mg, 78% | NC1=C(C=CC(=C1)O)CCCl | C8H10ClNO
